US09126972B2
7.5: 2-Amino-N-(2,2-diethoxy-ethyl)-1-ethyl-7-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxamidine
0.38 g (2.86 mmol) of aminoacetaldehyde diethylacetal and 0.155 g (1.57 mmol) of CuCl were added to 0.48 .g (1.43 mmol) of 2-amino-1-ethyl-7-iodo-4-oxo-1,4-dihydro-quinoline-3-carbonitrile dissolved in 20 ml of DME. The solution was stirred and irradiated with microwaves for 0.5 hour at 100° C.

reactant | aminoacetaldehyde diethylacetal | 2.86 mmol, 0.38 g | C(C)OC(CN)OCC | C6H15NO2
reactant | 2-amino-1-ethyl-7-iodo-4-oxo-1,4-dihydro-quinoline-3-carbonitrile | 1.43 mmol | NC=1N(C2=CC(=CC=C2C(C1C#N)=O)I)CC | C12H10IN3O
solvent | DME | 20 ml | COCCOC | C4H10O2
catalyst | CuCl | 1.57 mmol, 0.155 g | Cl[Cu]
product | 2-Amino-N-(2,2-diethoxy-ethyl)-1-ethyl-7-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxamidine | NC=1N(C2=CC(=CC=C2C(C1C(=N)NCC(OCC)OCC)=O)I)CC | C18H25IN4O3
